US06358981B1
Preparation of 2-(4-Bromophenyl)-3,3,3-trifluoronitropropene.
A stirred solution of 4′-bromo-2,2,2-trifluoroacetophenone (0.392 g, 2.00 mmol) and CH3NO2 (0.488 g, 8.0 mmol) in dry toluene (70 mL) containing N,N-diethylenediamine (30 mmol) is heated at reflux with a Dean and Stark trap until complete removal of H2O. The cooled solution is washed with 5% aqueous HCl, dried over MgSO4, filtered, evaporated in vacuo and the resulting residue when purified by chromatography gives the title compound.

reactant | 4′-bromo-2,2,2-trifluoroacetophenone | 2.00 mmol, 0.392 g | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | CH3NO2 | 8.0 mmol, 0.488 g | C[N+](=O)[O-] | CH3NO2
reactant | H2O | O | H2O
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Bromophenyl)-3,3,3-trifluoronitropropene | BrC1=CC=C(C=C1)C(=C[N+](=O)[O-])C(F)(F)F | C9H5BrF3NO2
